US06703347B2
5-Amino-4-chloro-3-methylisothiazole (7.4 g, 0.050 mol) was added to a suspension of sodium methoxide (6.1 g, 0.112 mol) in tetrahydrofuran (160 ml) and the mixture was stirred at room temperature for 20 minutes. A solution of methyl 2-(4-methoxyphenyl)propionate (8.8 g, 0.045 mol) in tetrahydrofuran (40 ml) was added dropwise and the mixture was stirred for 3 hours at room temperature. The reaction was quenched with water, acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate:dichloromethane 2.5:97.5, to give N-(4-chloro-3-methylisothiazol-5-yl)-2-(4-methoxyphenyl)propionamide (12.5 g) as a colourless solid.

reactant | 5-Amino-4-chloro-3-methylisothiazole | 0.050 mol, 7.4 g | NC1=C(C(=NS1)C)Cl | C4H5ClN2S
reactant | sodium methoxide | 0.112 mol, 6.1 g | C[O-].[Na+]
reactant | methyl 2-(4-methoxyphenyl)propionate | 0.045 mol, 8.8 g | COC1=CC=C(C=C1)C(C(=O)OC)C | C11H14O3
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-(4-chloro-3-methylisothiazol-5-yl)-2-(4-methoxyphenyl)propionamide | 12.5 g | ClC=1C(=NSC1NC(C(C)C1=CC=C(C=C1)OC)=O)C | C14H15ClN2O2S
